US08193214B2
Imidazo[1,2-a]pyridin-2-one hydrobromide salt
A solution of 9 g (34.4 mmol) of (2-imino-2H-pyridin-1-yl)-acetic acid ethyl ester hydrobromide salt in 200 mL of ethanol is heated at reflux for 18 h. The reaction mixture is then cooled to room temperature and the precipitate is collected. The isolated solid is washed with ethanol to give the desired compound.

reactant | (2-imino-2H-pyridin-1-yl)-acetic acid ethyl ester hydrobromide salt | 34.4 mmol, 9 g | Br.C(C)OC(CN1C(C=CC=C1)=N)=O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | Imidazo[1,2-a]pyridin-2-one hydrobromide salt | Br.N=1C(CN2C1C=CC=C2)=O | InChI=1S/C7H6N2O.BrH/c10-7-5-9-4-2-1-3-6(9)8-7;/h1-4H,5H2;1H
